US07354942B2
To a solution of diethyl 5-(hydroxymethyl)benzene-1,3-dioate (3.5 g, 0.014 mol) and carbon tetrabromide (5.0 g, 0.015 mol) in 30 mL CH2Cl2, cooled to 0° C., was added dropwise a solution of triphenylphosphine (3.9 g, 0.015 mol) in 20 mL CH2Cl2. The reaction was stirred at 0° C. for 1.5 h, diluted with CHCl3, and washed with water and brine. Drying, solvent evaporation and flash chromatography (silica gel, 0-30% EtOAc/hexanes) gave diethyl-5-(bromomethyl)benzene-1,3-dioate. 1H NMR (400 MHz, CDCl3) δ 8.61 (s, 1H), 8.25 (app d, J=1.6 Hz, 2H), 4.55 (s, 2H), 4.42 (q, J=7.1 Hz, 4H), 1.42 (t, J=7.1 Hz, 6H).

reactant | diethyl 5-(hydroxymethyl)benzene-1,3-dioate | 0.014 mol, 3.5 g | OCC=1C=C(C=C(C1)C(=O)OCC)C(=O)OCC | C13H16O5
reactant | carbon tetrabromide | 0.015 mol, 5.0 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.015 mol, 3.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | diethyl-5-(bromomethyl)benzene-1,3-dioate | C(C)OC(=O)C1=CC(=CC(=C1)CBr)C(=O)OCC | C13H15BrO4
